US04036864
A solution of 14α-fluoro-3β-hydroxyandrost-5(6)-en-17-one (200 mg), prepared as described in (i) above, in pyridine (20 ml) was treated with trifluoracetic anhydride (140 mg) at 0° for 10 minutes to give 14α-fluoro-3β-trifluoroacetoxyandrost-5(6)-en-17-one which was isolated and recrystallised from acetone: hexane as prisms (209 mg) m.p. 175°-176°; [α]D25 - 12.5° (c 4.1, CHCl3).

reactant | 14α-fluoro-3β-hydroxyandrost-5(6)-en-17-one | 200 mg | F[C@@]12CCC([C@@]1(C)CC[C@@H]1[C@]3(CC[C@@H](CC3=CC[C@@H]21)O)C)=O | C19H27FO2
reactant | trifluoracetic anhydride | 140 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 14α-fluoro-3β-trifluoroacetoxyandrost-5(6)-en-17-one | F[C@@]12CCC([C@@]1(C)CC[C@@H]1[C@]3(CC[C@@H](CC3=CC[C@@H]21)OC(C(F)(F)F)=O)C)=O | C21H26F4O3
